US08124649B2
A solution of methyl 3-(5-acetylfuran-2-yl)benzoate (1.50 g, 6.1 mmol) in ethanol (15 mL), and sodium hydroxide (6N, 3 mL) was heated at 70° C. for 30 minutes. The reaction mixture was cooled to rt and pH was adjusted (pH=4) with HCl (6N). The resulting precipitate was collected by filtration to give the desired 3-(5-acetylfuran-2-yl)benzoic acid (1.10 g, 4.78 mmol, 77% yield) as a yellow/green solid. LCMS (ES): m/z 231 [M+1]+.

reactant | methyl 3-(5-acetylfuran-2-yl)benzoate | 6.1 mmol, 1.50 g | C(C)(=O)C1=CC=C(O1)C=1C=C(C(=O)OC)C=CC1 | C14H12O4
reactant | sodium hydroxide | 6N, 3 mL | [OH-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 3-(5-acetylfuran-2-yl)benzoic acid | 4.78 mmol, 1.10 g, 77% yield | C(C)(=O)C1=CC=C(O1)C=1C=C(C(=O)O)C=CC1 | C13H10O4
